US07342030B2
Sodium hydride (7 mg, 0.28 mmol) was given at 0° C. to a solution of 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol (55 mg, 0.25 mmol) in 2.0 ml N,N-dimethyl formamide and stirred for 30 min. 2-(4-Chloromethyl-oxazol-2-yl)-5-trifluoromethoxy-1H-indole (80 mg, 0.25 mmol) dissolved in 1.0 ml N,N-dimethyl formamide was added at 0° C. and stirring continued at 0° C. for 1 h and 12 h at room temperature thereafter. The mixture was quenched with water (10 ml) and extracted with ethyl acetate (3×10 ml). The combined organic extracts were washed with brine (10 ml), dried over sodium sulfate and concentrated in vacuo. Chromatography on silica gel (ethyl acetate) yielded 2-{4-[4-(4-[1,2,3]Triazol-1-yl-butyl)-phenoxymethyl]-oxazol-2-yl}-5-trifluoromethoxy-1H-indole as off white solid. Yield 50 mg (40%)

reactant | Sodium hydride | 0.28 mmol, 7 mg | [H-].[Na+]
reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.25 mmol, 55 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | 2-(4-Chloromethyl-oxazol-2-yl)-5-trifluoromethoxy-1H-indole | 0.25 mmol, 80 mg | ClCC=1N=C(OC1)C=1NC2=CC=C(C=C2C1)OC(F)(F)F | C13H8ClF3N2O2
solvent | N,N-dimethyl formamide | 2.0 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethyl formamide | 1.0 ml | CN(C=O)C | C3H7NO
product | 2-{4-[4-(4-[1,2,3]Triazol-1-yl-butyl)-phenoxymethyl]-oxazol-2-yl}-5-trifluoromethoxy-1H-indole | N1(N=NC=C1)CCCCC1=CC=C(OCC=2N=C(OC2)C=2NC3=CC=C(C=C3C2)OC(F)(F)F)C=C1 | C25H22F3N5O3
